US07211672B2
(2S, 4R)-(2-Methyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid benzyl ester (22)
A clean, dry flask was charged with (S)-(3-phenylamino-butyryl)-carbamic acid benzyl ester (0.821 g, 2.63 mmol) followed by reagent grade ethanol (20 mL) and cooled to −10° C. Sodium borohydride (0.070 g, 1.84 mmol) was added to the solution in one portion. Nitrogen gas purging is maintained for 5 minutes. A solution of 3.3 M aqueous magnesium chloride solution (0.561 g MgCl2 6H2O in 1.5 mL water) was added at such a rate that the internal temperature did not exceed −5° C. Once addition was completed, the reaction solution was warmed to 0° C. for 30 min. The reaction was quenched with methylene chloride (10 mL), and 1 M hydrochloric acid/citric acid solution (10.52 mL 1 N HCl, and 1.38 g citric acid). This bilayer was stirred at room temperature for six hours. The reaction mixture was diluted with ethyl acetate (200 mL) and neutralized with sat. aqueous NaHCO3 solution (pH=10). The organics were collected together and washed with sat. NaCl solution and dried over Na2SO4, filtered and concentrated. Flash chromatography using an Isco system (100% hexane to 50% EtOAc/50% hexane gradient) afforded the title compound (0.733 g). (91%).

reactant | (S)-(3-phenylamino-butyryl)-carbamic acid benzyl ester | 2.63 mmol, 0.821 g | C(C1=CC=CC=C1)OC(NC(C[C@H](C)NC1=CC=CC=C1)=O)=O | C18H20N2O3
reactant | Sodium borohydride | 1.84 mmol, 0.070 g | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2S, 4R)-(2-Methyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid benzyl ester | 0.733 g | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@@H](NC2=CC=CC=C12)C)=O | C18H20N2O2
